US05612340
1189.4 mg (0.75 mmol) of 3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl-guanidine nitrate are added to a solution of 200 mg (0.75 mmol) of 3-dimethylamino-1-(3,4,5-trimethoxy-phenyl)-2-propen-1-one in 11.5 ml of 1-propanol. After the addition of 33.2 mg (0.83 mmol) of sodium hydroxide, the reaction mixture is boiled under reflux for 23 hours. After cooling to RT, the reaction product is isolated by filtration and washed with 1-propanol and water. After drying at 60° C. under HV, N-[3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl]-4-(3,4,5-trimethoxyphenyl)-2-pyrimidineamine is obtained; Rf =0.75 (methylene chloride:methanol=9:1), FAB-MS: 454 (M+ +1), m.p. 132° C.

reactant | 3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl-guanidine nitrate | 0.75 mmol, 1189.4 mg | [N+](=O)(O)[O-].FC(C(F)F)(OC=1C=C(C=CC1)NC(=N)N)F
reactant | 3-dimethylamino-1-(3,4,5-trimethoxy-phenyl)-2-propen-1-one | 0.75 mmol, 200 mg | CN(C=CC(=O)C1=CC(=C(C(=C1)OC)OC)OC)C | C14H19NO4
reactant | sodium hydroxide | 0.83 mmol, 33.2 mg | [OH-].[Na+]
solvent | 1-propanol | 11.5 ml | C(CC)O | C3H8O
product | N-[3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl]-4-(3,4,5-trimethoxyphenyl)-2-pyrimidineamine | FC(C(F)F)(OC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=C(C(=C1)OC)OC)OC)F | C21H19F4N3O4
